US05506227
Step 1: 6-(1-Butenyl)-2-picoline
n-Butyllithium (7.5 mL, 1.6M/hexanes, 12 mmol) was added to a slurry of propyltriphenylphosphonium bromide (4.62 g, 12 mmol) in THF (40 mL) at -78° C. The mixture was warmed to 0° C. and stirred 30 min., then cooled again to -78° C. A THF (10 mL) solution of 6-methyl-2-pyridinecarboxaldehyde (1.21 g, 10 mmol) was added dropwise. The reaction mixture was allowed to warm to r.t. and stirred for 2 hours. Silica gel was added and the slurry was filtered on a short (SiO2) column eluting with 10% EtOAc in hexanes to give 990 mg of the title compound.

reactant | n-Butyllithium | 12 mmol, 1.6M, 7.5 mL | C(CCC)[Li]
reactant | propyltriphenylphosphonium bromide | 12 mmol, 4.62 g | [Br-].C(CC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 6-methyl-2-pyridinecarboxaldehyde | 10 mmol, 1.21 g | CC1=CC=CC(=N1)C=O | C7H7NO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-(1-Butenyl)-2-picoline | 990 mg | C(=CCC)C1=CC=CC(=N1)C | C10H13N
